### PR TITLE
refactor(Algebra/Order/Ring/Ordering): unbundle `RingPreordering`

### PR DESCRIPTION
**Pull request by artie2000**
The current design for [RingPreordering](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering) ran into issues at PR #32077. This PR unbundles [RingPreordering](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering) into a class predicate on [Subsemiring](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Ring/Subsemiring/Defs.html#Subsemiring), generalising the material on supports as far as possible.

Zulip thread: https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Ring.20orderings.20-.20structure.20or.20predicate.3F/with/562594050

See #37298 for the analogous change to group and ring cones.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by chrisflav** [comment]
Could you please provide some motivation, ideally including a reference or a link to some code that uses the "support of a subsemiring as an ideal"?

**Comment by artie2000** [comment]
@chrisflav that's fair enough. Would it be useful to make a PR depending on this one that shows where I'm going with this?
This PR is generalising [RingPreordering.HasIdealSupport](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering.HasIdealSupport) in order to be able to unbundle [RingPreordering](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering) after we ran into issues with the bundled design at PR #32077.

File: Mathlib/Algebra/Ring/Subsemiring/Support.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+@[aesop safe forward (immediate := [hS, hx₂])]
+alias eq_zero_of_mem_of_neg_mem₂ := eq_zero_of_mem_of_neg_mem -- for Aesop
+
+@[aesop safe forward]
+theorem mem_or_neg_mem (hS : S.IsSpanning) : ∀ a, a ∈ S ∨ -a ∈ S :=
+  hS.mem_or_neg_mem
+
+variable (S) in
+/-- Typeclass to track when the support of a subsemiring forms an ideal. -/
+class HasIdealSupport : Prop where
```
Comment (chrisflav) [inline Mathlib/Algebra/Ring/Subsemiring/Support.lean:46]: Why are you making this a `class`? What instances do you expect? I understand that `RingPreordering.HasIdealSupport` is a class, but the same question would apply there.

File: Mathlib/Algebra/Ring/Subsemiring/Support.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+
+@[expose] public section
+
+variable {R : Type*} [Ring R]
+
+namespace Subsemiring
+
+variable {S : Subsemiring R}
+
+@[aesop safe forward (immediate := [hS, hx₁])]
```
Comment (chrisflav) [inline Mathlib/Algebra/Ring/Subsemiring/Support.lean:33]: Is there a reason why you are not using `grind` instead of `aesop` here and below? It seems to me that the library is slowly converging to mainly using `grind`.

**Comment by chrisflav** [comment]
> This PR is generalising [RingPreordering.HasIdealSupport](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering.HasIdealSupport)

This is already helpful, could you please add this to the PR description?

File: Mathlib/Algebra/Ring/Subsemiring/Support.lean (hunk 2 above)
Comment (artie2000) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:33]: Because I wrote this many months ago, when `grind` was much less predictable.  The Aesop API for supports has already been PRed to `Mathlib.Algebra.Group.Submonoid.Support`, and this just extends it. I can try to rewrite `Mathlib.Algebra.Group.Submonoid.Support` to make use of `grind`, but I worry that that will require yet more refactoring PRs.

File: Mathlib/Algebra/Ring/Subsemiring/Support.lean (hunk 1 above)
Comment (artie2000) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:46]: Instances would be the projection on [RingPreordering.IsOrdering](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering.IsOrdering) (renamed to `Subsemiring.IsOrdering`), and the existing [RingPreordering.instHasIdealSupportOfFactIsUnitOfNat](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Basic.html#RingPreordering.instHasIdealSupportOfFactIsUnitOfNat) and [RingPreordering.instHasIdealSupport](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Basic.html#RingPreordering.instHasIdealSupport). These allow one to talk of "the support of an ordering" as an ideal, as in the literature.

This relies on `Subsemiring.IsPreordering` and `Subsemiring.IsOrdering` remaining as classes. If those are downgraded to structures, then there's little point keeping this as an instance and possibly little point defining `Subsemiring.support` at all. But defining the support of a preordering as an ideal is precisely what I was advised to do earlier in review!

In any case, your comments make me think I should make a PR with the whole proposal to redefine [RingPreordering](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Ordering/Defs.html#RingPreordering), and then we can look at it properly.

Comment (chrisflav) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:46]: I understand the desire to talk about the support as an ideal, but could you not also do this if it is not a `class`? It could be `HasIdealSupport.ideal (h : S.HasIdealSupport) : Ideal R := ...` and in practice you would use it with dot-notation as `h.ideal`?

Comment (artie2000) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:46]: my first thought is that this would be a bit of a pain but I'll try it out in my downstream repo
as I said, I'll make a bigger PR so it's clearer what we are going for

Comment (artie2000) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:46]: for context / for later: https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Ring.20orderings.20-.20structure.20or.20predicate.3F/with/562594050 -- thread on unbundling docs#RingPreordering

**Comment by artie2000** [comment]
TODO : minimise added theorems

**Comment by artie2000** [comment]
@chrisflav here is the full refactor
I've also changed the PR description to contain the full context
what do you think?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 3]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+
+variable [P.IsPreordering]
+
+variable {P} in
+@[aesop 90% (rule_sets := [SetLike])]
+theorem unitsInv_mem {a : Rˣ} (ha : ↑a ∈ P) : ↑a⁻¹ ∈ P := by
+  have : (a * (a⁻¹ * a⁻¹) : R) ∈ P := by aesop (config := { enableSimp := false })
+  simp_all
+
+theorem one_notMem_toAddSubmonoid_support : 1 ∉ P.toAddSubmonoid.support :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:44]:
```suggestion
theorem one_notMem_support_toAddSubmonoid : 1 ∉ P.toAddSubmonoid.support :=
```
no?

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 4]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+  fun h => P.neg_one_notMem h.2
+
+theorem one_notMem_support [P.HasIdealSupport] : 1 ∉ P.support := by
+  simpa using one_notMem_toAddSubmonoid_support P
+
+theorem toAddSubmonoid_support_ne_top : P.toAddSubmonoid.support ≠ ⊤ :=
+  fun h => one_notMem_toAddSubmonoid_support P (by simp [h])
+theorem support_ne_top [P.HasIdealSupport] : P.support ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:52]:
```suggestion

theorem support_ne_top [P.HasIdealSupport] : P.support ≠ ⊤ := by
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 5]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+  have : (a * (a⁻¹ * a⁻¹) : R) ∈ P := by aesop (config := { enableSimp := false })
+  simp_all
+
+theorem one_notMem_toAddSubmonoid_support : 1 ∉ P.toAddSubmonoid.support :=
+  fun h => P.neg_one_notMem h.2
+
+theorem one_notMem_support [P.HasIdealSupport] : 1 ∉ P.support := by
+  simpa using one_notMem_toAddSubmonoid_support P
+
+theorem toAddSubmonoid_support_ne_top : P.toAddSubmonoid.support ≠ ⊤ :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:50]:
```suggestion
theorem support_toAddSubmonoid_ne_top : P.toAddSubmonoid.support ≠ ⊤ :=
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 6]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+      mem_or_mem' {x} {y} := by
+        by_contra
+        have := h (-x) y
+        have := h (-x) (-y)
+        have := h x y
+        have := h x (-y)
+        cases (by simp_all : x ∈ P ∨ -x ∈ P) <;> aesop
+    }
+
+theorem hasIdealSupport_of_isUnit_two (h : IsUnit (2 : R)) : P.HasIdealSupport where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:81]:
```suggestion
theorem HasIdealSupport.of_isUnit_two (h : IsUnit (2 : R)) : P.HasIdealSupport where
```

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 7]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+set_option linter.deprecated false in
+@[deprecated "no replacement" (since := "2026-04-15"), mono]
 theorem toSubsemiring_strictMono : StrictMono (toSubsemiring : RingPreordering R → _) :=
   fun _ _ => id
 
-@[aesop unsafe 90% apply (rule_sets := [SetLike])]
-theorem unitsInv_mem {a : Rˣ} (ha : ↑a ∈ P) : ↑a⁻¹ ∈ P := by
+set_option linter.deprecated false in
+@[deprecated Subsemiring.IsPreordering.unitsInv_mem (since := "2026-04-15"),
+  aesop unsafe 90% apply (rule_sets := [SetLike])]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:156]: Tactic attributes should be dropped if easy to do so, otherwise tactics might silently use the deprecated lemam

File: Mathlib/Algebra/Order/Ring/Ordering/Basic.lean [hunk 8]
```diff
@@ -25,51 +24,162 @@ We prove basic properties of (pre)orderings on rings and their supports.
...
+theorem mem_of_isSumSq {P : RingPreordering R} {x : R} (hx : IsSumSq x) : x ∈ P := by
   induction hx using IsSumSq.rec' <;> aesop
 
 section mk'
 
 variable {R : Type*} [CommRing R] {P : Set R} {add} {mul} {sq} {neg_one}
 
+set_option linter.deprecated false in
 /-- Construct a preordering from a minimal set of axioms. -/
+@[deprecated "no replacement" (since := "2026-04-15")]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Ordering/Basic.lean:182]: I believe you don't need this `set_option` anymore, as of recently

File: Mathlib/Algebra/Ring/Subsemiring/Support.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Ring/Subsemiring/Support.lean:33]: I agree this is now a job for grind. If you could give it a try, it would be great. Else I am also happy to have the aesop annotations removed for now
